US07223791B2
A mixture of methyl 4-chloroformylbenzoate (6.81 g), 5-phenyl-1H-tetrazole (5.01 g) and pyridine (10 ml) was heated under reflux for 1 hr. After cooling, water was added to the mixture. The crystals were collected by filtration, and dissolved in ethyl acetate. This solution was washed with 1 M hydrochloric acid, water and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was washed with cold hexane to give methyl 4-(5-phenyl-1,3,4-oxadiazol-2-yl)benzoate (7.88 g, yield 82%). Recrystallization from hexane-tetrahydrofuran gave colorless crystals. melting point: 172–173° C.

reactant | methyl 4-chloroformylbenzoate | 6.81 g | ClC(=O)C1=CC=C(C(=O)OC)C=C1 | C9H7ClO3
reactant | 5-phenyl-1H-tetrazole | 5.01 g | C1(=CC=CC=C1)C1=NN=NN1 | C7H6N4
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | methyl 4-(5-phenyl-1,3,4-oxadiazol-2-yl)benzoate | 7.88 g, yield 82% | C1(=CC=CC=C1)C1=NN=C(O1)C1=CC=C(C(=O)OC)C=C1 | C16H12N2O3
